Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
Abdominal Pain
 
Major Surgical or Invasive Procedure:
EUS/EGD (___)
EUS was performed using a radial echoendoscope at ___ MHz and 10 
MHz frequency: T staging: An exophytic esophageal mass was noted 
at the lower third of the esophagus at 38 cm from the incisors. 
The EUS examination was limited due to the obstructing 
esophageal lesion - unable to advance beyond the esophageal 
mass. The lesion involved the mucosa, submucosa and the 
muscularis propria. There was evidence of invasion beyond the 
muscularis layer. This was manifest by the presence of 
irregularity of outer muscularis layer margin / “pseudopodia” 
like tumor extensions were noted beyond the outer muscularis 
margin. This was staged as T 3 by EUS criteria. A lymph node was 
noted at 38cm from the incisors. The lymph node was hypoechoic 
and homogenous in echotexture. The borders were well-defined. No 
central intra-nodal vessels were seen. 

 
History of Present Illness:
___ with history of HTN, HLD referred by PCP to ___ after 
outpt CT scan showed new proximal gastric/esophageal mass with 
necrotic LAD, transferred to ___ for further work up. 

___ of ___, patient began losing weight but she reports that 
this had been intentional by eating healthier and exercising 
more. Around ___, her appetite decreased suddenly and 
she was only eating around "a couple bites per day." Although 
she was no longer trying to lose weight, she noticed in ___ 
that she had lost over 50 lbs. Around this time, she also 
noticed some vague dull epigastric pain and was seen by PA at 
her PCP's office. Per patient's report, RUQ u/s was done, which 
was unrevealing. 

Yesterday, she presented to PCP's office at the urging of her 
boyfriend to further investigate her lack of appetite. Patient 
had labs done, which were all within normal limits. Following 
day, patient had CT abdomen with contrast which revealed a 6.9 x 
3.8 cm soft tissue density mass arising from the proximal 
stomach with extensive lymphadenopathy in the gastrohepatic 
ligament, measuring up to 7.2 x 5.6 cm.

Patient's boyfriend was then called by PCP today and told to 
bring patient to ___. At ___, GI was consulted, 
reviewed the outpt images and felt it was best to transfer 
patient to ___ for further management and possible stenting. 

On transfer, patient's vitals were: Temperature: 97.6 F (36.4 
C). Pulse: 92. Respiratory Rate: 14. Blood-pressure: 143/63. 
Oxygen Saturation: 100%.
 
In the ___, initial vital signs were: Temp: 98.0 HR: 82 BP: 
138/83 Resp: 18 O2 Sat: 99 RA

Physical exam: non-revealing. 

Labs were notable for:

137 | 100 |  11    
---------------< 75 
4.5 | 21  | 0.5 

9.7  > 11.0 / 34.7  <  431 

Lipase: 200

UA: 
Ketones: 10
 
Patient was admitted to medicine. Upon arrival to the floor, the 
patient appears in no acute distress. She denies dysphagia, 
dyspepsia, nausea, vomiting, and diarrhea.

Review of Systems:  
Constitutional: positive for fatigue and weight loss, negative 
for fever 
Eyes: negative for visual changes 
Ear/Nose/Throat: negative for sore throat 
Cardio-Vascular: negative for chest pain
Respiratory: negative for cough, shortness of breath, hemoptysis 

GI: negative for abdominal pain 
GU: negative for frequency, urgency, dysuria, hematuria 
Musculo-Skeletal: negative for back pain, joint pain, weakness  
Neurological: negative for headache, paresthesias, weakness 

 
Past Medical History:
HTN
HLD 
?Skin cancer in ___ 
Vocal cord polyp 
Colon adenomas 
Serrated adenoma of colon
Bronchitis 
CKD stage ___
Microalbuminuria

 
Social History:
___
Family History:
Mother: deceased ?old age
Father: deceased from ?stomach cancer 
Siblings: 10, alive and well
No other history of cancer 

 
Physical Exam:
ADMISSION PHYSICAL EXAM
=======================
Vitals: 98.3 133 / 76 R Sitting 88 15 98 RA 
GENERAL: AOx3, NAD
HEENT: Normocephalic, atraumatic. EOMI, PERRL. Moist mucous 
membranes, oropharynx is clear.
NECK: Thyroid is normal in size and texture. No cervical 
lymphadenopathy.
CARDIAC: Regular rhythm, normal rate, no murmurs/rubs/gallops.  
LUNGS: Clear to auscultation bilaterally w/appropriate breath 
sounds appreciated in all fields.  No wheezes, rhonchi or rales. 

ABDOMEN:  Normal bowels sounds, non distended, non-tender to 
deep palpation in all four quadrants. Tympanic to percussion. No 
organomegaly.
EXTREMITIES: No clubbing, cyanosis, or edema. Patient wearing 
sling over left shoulder. 
SKIN: No evidence of ulcers, rash.
NEUROLOGIC: CN2-12 grossly normal.  ___ strength througout.  
Normal sensation. 

DISCHARGE PHYSICAL EXAM
=======================
Vitals: 98.1 PO 115 / 67 R Lying 74 18 97 Ra 
General: NAD, AOx3, sitting comfortably in chair
HEENT: PERRL, EOMI
Neck: supple, no LAD, no JVD
CV: RRR, S1 + S2 present, no mrg
Lungs: CTAB, no wheezes/crackles
Abdomen: soft, no tenderness, rebound/guarding, + BS  
Ext: no ___ edema PPP
Neuro: motor function grossly intact
Skin: no rashes

 
Pertinent Results:
ADMISSION LABS
==============
___ 03:35PM BLOOD WBC-9.7 RBC-3.80* Hgb-11.0* Hct-34.7 
MCV-91 MCH-28.9 MCHC-31.7* RDW-13.8 RDWSD-46.5* Plt ___
___ 03:35PM BLOOD Neuts-62.7 ___ Monos-8.6 Eos-1.4 
Baso-0.6 Im ___ AbsNeut-6.06 AbsLymp-2.55 AbsMono-0.83* 
AbsEos-0.14 AbsBaso-0.06
___ 03:35PM BLOOD Plt ___
___ 03:35PM BLOOD Glucose-75 UreaN-11 Creat-0.5 Na-137 
K-4.5 Cl-100 HCO3-21* AnGap-21*
___ 03:35PM BLOOD ALT-9 AST-14 AlkPhos-73 TotBili-0.2
___ 03:35PM BLOOD Lipase-200*
___ 03:35PM BLOOD Albumin-3.5

DISCHARGE LABS
==============
___ 12:43AM BLOOD WBC-6.2 RBC-3.46* Hgb-10.0* Hct-30.4* 
MCV-88 MCH-28.9 MCHC-32.9 RDW-13.5 RDWSD-43.5 Plt ___
___ 12:43AM BLOOD Plt ___
___ 12:43AM BLOOD ___ PTT-32.4 ___
___ 12:43AM BLOOD Glucose-146* UreaN-7 Creat-0.4 Na-136 
K-4.0 Cl-104 HCO3-24 AnGap-12
___ 12:43AM BLOOD Calcium-8.4 Phos-3.6 Mg-1.9

MICRO:
======
Urine culture (___): negative

IMAGES:
=======
GI Endoscopy (___): Reviewed and significant findings noted 
below
A large malignant appearing obstructing mass was found at 38 cm 
from the incisors. The mass was friable and ulcerated, extending 
from 38 cm to 43 cm (GEJ). This was also noted at the cardia on 
retroflexion in the stomach. The EUS examination was limited due 
to the obstructing esophageal lesion - unable to advance beyond 
the esophageal mass. The lesion involved the mucosa, submucosa 
and the muscularis propria. There was evidence of invasion 
beyond the muscularis layer. This was manifest by the presence 
of irregularity of outer muscularis layer margin / “pseudopodia” 
like tumor extensions were noted beyond the outer muscularis 
margin. This was staged as T 3 by EUS criteria.  A lymph node 
was noted at 38cm from the incisors. The lymph node was 
hypoechoic and homogenous in echotexture. Retroflexion in the 
stomach revealed the esophageal mass extending into the gastric 
cardia. Duodenal mucosal erythema at the junction between the 
duodenal bulb and second part of duodenum, with no ulceration

PATHOLOGY: Esophageal mass biopsy (___): Adenocarcinoma, 
moderately to poorly differentiated.

 
Brief Hospital Course:
___ with history of HTN, HLD who presents with unintentional 60 
lb weight loss since last ___, anorexia, intermittent 
dysphagia and vomiting found to have on CT imaging proximal 
gastric/esophageal mass with necrotic LAD c/f malignancy, 
transferred to ___ for further management, found to have an 
exophytic esophageal mass stage T3 on EUS with biopsy results 
showing adenocarcionoma. 

# Abdominal mass: Patient has had unintentional 60 lb weight 
loss since ___, with early satiety and anorexia, dysphagia 
and intermittent vomiting. Patient also has 45 py smoking 
history in addition to family h/o cancer. Recent CT imaging 
revealed a 6.9 x 3.8 cm soft tissue density mass arising from 
the proximal stomach with extensive lymphadenopathy in the 
gastrohepatic ligament, measuring up to 7.2 x 5.6 cm, concerning 
for malignancy. EUS performed ___ limited due to obstructing 
esophageal lesion. An exophytic esophageal mass was noted at the 
lower third of the esophagus at 38 cm from the incisors, stage 
T3. Pathology demonstrates adenocarcinoma, moderately to poorly 
differentiated. 

# Smoking. Patient has 45 py history. She received a 21 mg 
nicotine patch while inpatient

CHRONIC ISSUES:
===============

#HTN: Continued home losartan 100 mg PO/NG daily

#HLD: Continued atorvastatin 20 mg PO/NG QPM (in place of home 
Lovastatin). Pt was discharged on home lovastatin.

TRANSITIONAL ISSUES:
====================
[ ] Follow up biopsy results with PCP
[ ] Please refer patient to oncology once biopsy results have 
returned
[ ] Please continue to encourage smoking cessation
[ ] Please encourage patient to complete health care proxy form

# CODE: Full (presumed)
# CONTACT: ___ (boyfriend): ___, ___ 
(daughter) ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Lovastatin 20 mg oral DAILY 
2. Losartan Potassium 100 mg PO DAILY 
3. Vitamin D Dose is Unknown  PO DAILY 

 
Discharge Medications:
1.  LORazepam 0.5 mg PO QD:PRN anxiety 
RX *lorazepam 0.5 mg 1 tab by mouth once a day Disp #*5 Tablet 
Refills:*0 
2.  Losartan Potassium 100 mg PO DAILY  
3.  Lovastatin 20 mg oral DAILY  
4.  Vitamin D unknown  PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
FINAL DIAGNOSIS
=============
Esophageal/gastric mass

SECONDARY DIAGNOSIS
==================
Anxiety
Tobacco use disorder
Hypertension
Hyperlipidemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure to be part of your care. 

You were admitted to the hospital because you were found to have 
a mass at the base of your throat that is concerning for cancer. 


You underwent a procedure to sample the mass in order to 
determine what it was. You will be called with the results which 
should come back to you within a week. 

You will need to follow-up with Dr. ___ as previously 
scheduled. 

Even though we are not ___ this mass is cancerous, given the 
likelihood that this is the case you will need to follow up with 
an oncologist when you leave the hospital. 

If you experience any pain, difficulty swallowing or bleeding 
from your mouth or in your stool then please seek medical 
attention immediately. 

We wish you the best,
Your ___ Team
 
Followup Instructions:
___